Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
"You're insane"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ presented to the ___ after being found on a public
sidewalk with complaints of SI, stating she wanted to end her
life to end suffering caused by AH and VH (see ___ EMS Run
Report below).  She was transported to the ___ ___ for further
evaluation.

Upon arrival to the ___, Ms. ___ was not agreeable to changing
into a ___.  She stated that she was having suicidal
thoughts, mentioned being on an airplane today and this "drove
her to suicide," and stated she wanted to "shoot [herself] in 
the
head."  Due to not being agreeable to having her belongings
searched and being assaultive towards staff, mechanical
restraints were applied and her belongings were searched.  A
chemical restraint of Haldol 5 mg IM + Ativan 2 mg IM was almost
administered but was not; the situation was de-escalated by the
presence of psychiatry (this writer) as Ms. ___ stated she was
wanting to speak to a psychiatrist.

On approach, Ms. ___ stated that she had come from ___ today
on an airplane to come to the ___ because she is a
___.  She notes the flight attendant was "psychotic,"
mentions something about a salad, and says "they are insane" and
"drove her to be suicidal."  When asked specifically about AH 
and
VH, she does not answer (but stares at a fixed point in the
room), and when asked about recent substance use she becomes
upset.

Ms. ___ states she does not take any psychiatric medications
because she is allergic to "all psych meds" -- when Zyprexa,
Risperdal, Seroquel are listed, she notes they and everything
else cause insomnia, SI; states she needs to get off her
psychiatric medications.  She endorsed one prior SA in the
context of her mother's death and noted that she "introduced
suicide to high society."  She says she was hospitalized at some
point at ___ and that she has seen "40 psychiatrists but they
all are trying to kill her."

Ms. ___ notes a history of sexual trauma.  She frequently states
that the ___ staff and providers here (including this writer) are
"abusing [her]."

Ms. ___ denies use of any substances prior to presentation to 
the
___.

COLLATERAL:
Per Collateral from Dr. ___:
___ EMS Run Report, ___, 02:24
-Complaint: "Want to kill myself"
-Symptoms: Auditory hallucinations, Visual hallucinations
-Narrative: "On arrival found a ___ yof c/a standing outside on
sidewalk c/o SI. Patient states she 'hear voices and see things
and that people are doing things to her.' Patient believes the
only way to stop suffering is to 'commit suicide.' Patient
transported to ___

Per collateral from Dr. ___ note:
"According to our medical system, prescribing physician was Dr.
___ in ___  I was able to find that he works at
___ in ___ (___).  I was
able to speak there with ___ (___), who has been 
the
patient's case manager for several years.  Reports that the
patient has diagnoses of schizophrenia, and most recently was on
olanzapine 5 mg daily, which is the only medication and dose she
was willing to take.  She lives in a group home (___)
which dispenses her medications for her.  Recently, she had been
doing pretty well.  At her baseline, she is organized in her
speech and behavior and able to carry on intelligent
conversation.  She was recently taking classes at a nearby
___.  She notes in the context of the recent hurricane they
lost contact with many clients that have been steadily trying to
reestablish contact with everyone.  She is surprised to hear 
that
___ was able to make it to ___ her only income is SSI.
she is certainly very worried about her safety were she released
community here given that she has no supports and no place to
stay in ___.  She notes that the patient has extensive
wraparound community services in ___, and her most recent
admission to any acute facility was crisis stabilization unit a
few months ago."

In the ___, patient received Olanzapine 5 mg BID, which she
accepted. She was also given Lorazepam ___ X3 for
anxiety/agitation. Patient was mechanically restrained while in
the ___ for her belongings to be searched. There was 
consideration
of chemical restraint, however she was redirectable in response
to verbal de-escalation by psychiatric staff member.

On admission interview, the patient reports that "they are all
crazy".  She states that she came to ___ following issues 
with
people who live in her group home, she did not want to tell us
the name of her group home. She reports that she left ___
because people were telling her to shoot herself, and there was
"going to be bloodshed". She states that they were stealing her
belongings and vandalizing her clothing.  Additionally she 
states
that they were knocking on her door at very early hours and
waking her up her sleep.  When asked to these particular
individuals were, she reported that they were other individuals
who live in her "apartment", but could not elaborate further. 
The patient stated several times that "everyone around me is
crazy. 

The patient reports that she has been "committed numerous times 
for suicide".  She states that these times that people were 
"screaming in my food" and "trying to get in bed and have sex 
with me."  When asked about her current hospitalization she 
states that she is concerned that "someone may come to try to 
get in bed with her".  She states that she has seen lots of "bad 
doctors, that she has gotten involved with.  She appears 
paranoid about the goals of these treaters, and the thoughts to 
harm her. 

The patient does not report suicidal thinking at this time.  She
does have a vague complaint of leg pain, but would not 
elaborate.
When another interviewer began to question her, she became
irritable and guarded, and paranoid, and she ended the 
interview.

 
Past Medical History:
As per HPI; unable to fully obtain due to Ms. ___ inability
to participate in interview due to irritability/paranoia.
Per Dr. ___ note: 
History of several hospitalizations in ___, most
recently at a ___ unit.  Her psychiatrist is 
Dr.
___ at ___ in ___ (___), case manager ___ (___).  Has been tried on
multiple medications but recently has only agreed to take
olanzapine.

-Prior diagnoses: Schizophrenia
-Hospitalizations: Patient reports multiple hospitalizations, 
but
could not elaborate.  See collateral above.
-Psychiatrist: Dr. ___ ___ ___
-Therapist: Unknown
-Case manager: ___ ___ ___: ___ ___
___ center in ___ trials: Reportedly patient has been tried on 
multiple
medications, however most recently is on olanzapine as it is the
only medication she is willing to take.
-Suicide attempts: Patient reports multiple suicide attempts,
however details are vague
-Self-injurious behavior: Unknown
-Harm to others: None reported
-Trauma: Unknown
-Access to weapons: Denies

PAST MEDICAL HISTORY:
Unable to obtain due to Ms. ___ inability to participate in
interview due to irritability/paranoia.
Denies history of head trauma, seizure.
 
Social History:
SUBSTANCE USE HISTORY:
Unable to obtain due to Ms. ___ inability to participate in
interview due to irritability/paranoia.

FORENSIC HISTORY:
___
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Unable to obtain due to significant paranoia

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
VITAL SIGNS:
T97.4 BP:103 / 71 HR:87 RR:16 SpO2:97 

EXAM:
Patient refused physical exam. 
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Inattentive to interview, difficult to redirect;
Unable to formally assess
-Orientation: Oriented to person, place (___)
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: Unable to formally assess
-Fund of knowledge: Unable to assess
-Calculations: Unable to assess
-Abstraction: Unable to assess
-Visuospatial: Unable to assess
-Language: Native ___ speaker, no paraphasic errors

Mental Status:
-Appearance: Femalw with short b bleached blond hair, laying in
bed under the covers.  Appearing younger than stated age,
disheveled, decent hygiene.  Patient is in no apparent distress.
-Behavior: Sitting up in bed, poor eye contact, however
occasionally does make eye contact with the examiner's at which
time she has a strong stare. no psychomotor agitation or
retardation
-Attitude: Not cooperative with the interview, suspicious
-Mood: "I am not good.  I do not want to be here."
-Affect: Mood-congruent, constricted. 
-Speech: Normal rate, volume, and tone.
-Thought process: Frequently tangential, occasionally
circumferential. no loose associations.  -Thought Content:
---Safety: Denies SI/HI
---Delusions: Patient discusses significant concerns of her
safety and behavior of others around her.  Appears significantly
paranoid. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: At times slow to respond. Possibly attending
to internal stimuli vs paranoia.
-Insight: Poor
-Judgment: Poor

PHYSICAL EXAM ON DISCHARGE

Objective:
VS: Temp:98.1 BP:98/62 HR:85 RR:16 SpO2:96 

Mental Status Exam: 
      Appearance: Patient is a Caucasian female appearing 
younger
than her stated age, wearing a casual top, otherwise covered by
blanket. She has fair hygiene and grooming.
      Behavior: Patient was laying in bed during the entire
interview, no obvious psychomotor retardation or agitation. 
     Mood and Affect: "I'm excited to go back to ___. 
Affect
was blunted.  
     Thought process: Mostly linear and goal-directed, decreased
thought blocking, no loose associations
     Thought Content: 
        --denies suicidal ideation
        -- denies AVH, does not appear to be preoccupied with
internal stimuli
        --Does not exhibit any apparent paranoia or delusional
thinking
       ---No evidence of obsessions/compulsions based on current 
encounter
     Judgment and Insight: Poor/poor

 
Pertinent Results:
___ 05:40AM BLOOD WBC-6.4 RBC-3.98 Hgb-12.4 Hct-36.7 MCV-92 
MCH-31.2 MCHC-33.8 RDW-12.2 RDWSD-41.6 Plt ___
___ 05:40AM BLOOD Neuts-37.7 ___ Monos-7.5 Eos-2.2 
Baso-0.3 Im ___ AbsNeut-2.39# AbsLymp-3.31 AbsMono-0.48 
AbsEos-0.14 AbsBaso-0.02
___ 03:53AM BLOOD Glucose-95 UreaN-17 Creat-0.5 Na-142 
K-3.8 Cl-105 HCO3-26 AnGap-11
___ 05:40AM BLOOD ALT-11 AST-14 AlkPhos-41 TotBili-<0.2
___ 05:40AM BLOOD %HbA1c-5.5 eAG-111
___ 05:40AM BLOOD Triglyc-70 HDL-65 CHOL/HD-2.6 LDLcalc-91
___ 03:53AM BLOOD Glucose-95 UreaN-17 Creat-0.5 Na-142 
K-3.8 Cl-105 HCO3-26 AnGap-___. LEGAL & SAFETY:  
On admission, Ms. ___ refused to sign a conditional voluntary 
agreement and was admitted on a ___. Prior to expiration 
of the ___, Ms. ___ signed a conditional voluntary 
agreement (Section 10 & 11) on ___ and that legal status 
remained in place throughout admission.  Ms. ___ was also placed 
on 15 minute checks status on admission and remained on that 
level of observation throughout while being unit restricted. Ms. 
___ was initially placed on restricted sharps, which was 
advanced to monitored sharps access during her stay and remained 
in place until discharge.

2. PSYCHIATRIC:
#) Patient was admitted for reporting suicidal thoughts and 
demonstrating an inability to ___ for herself. She had a 
documented longstanding history of schizophrenia and had been 
displaced from her group home in ___ following the 
hurricane. On initial evaluation she denied that she had been 
taking her antipsychotic medications. On admission, she 
demonstrated demonstrating significant paranoia, thought 
blocking, loosening of associations, and appeared to be 
responding to internal stimuli. She was started on her home 
regimen of 5 mg of olanzapine BID. She demonstrated some 
improvement in the above symptoms, however, continued to 
demonstrate paranoia and reported auditory hallucinations. Her 
medication was increased to 5 mg olanzapine in the morning and 
10 mg olanzapine at night. She tolerated this change well and 
reported significant improvement in her auditory hallucinations, 
as well as demonstrated less paranoid behavior. 

3. SUBSTANCE USE DISORDERS:
#)Ms. ___ has a history of cigarette use. She was offered 
nicotine replacement daily. She was provided with a prescription 
of nicotine patches on discharge. 

4. MEDICAL
Ms. ___ was medically cleared in the ___ no acute  medical 
issues prevented admission to Deac 4.  Additionally, Ms. ___ has 
no chronic medical issues requiring attention.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___  was encouraged to participate in the various groups and 
milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Ms. ___ initially did 
not attend these groups, however as she improved she more often 
attended these groups, in particular projects groups. Ms. ___ 
was largely ___ in the milieu and, remained in her room. 
As she improved she was more visible on the milieu and 
appropriately interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ gave verbal permission for the team to contact her 
outpatient psychiatrist, Dr. ___ 
___ in ___, and her social Worker ___ on admission. Both were provided with a summary of Ms. 
___ presentation to the ___ ___ 4 and an update of her 
progress since admission on Deac 4, and they provided collateral 
information and treatment recommendations. Ms ___ was set up 
with follow up therapists and psychiatrists in ___ and Ms. ___ 
was referred to both an outpatient psychiatrist and therapist in 
this area upon discharge.

Ms. ___ is not close with her family and therefore did not give 
permission for the team to contact her family.

6. INFORMED CONSENT: 
Medication: Medication: Zyprexa (olanzapine)
---Benefits: Mood stabilization, treatment of paranoia
---Adverse effects: Dizziness, sedation, dry mouth, 
constipation, nausea, weight gain, peripheral edema, headache, 
body aches, tachycardia, hypotension/orthostatic hypotension 
(usually during initial dose titration), increased risk of 
diabetes and dyslipidemia, tardive dyskinesia (rare), seizures 
(rare, dose-related)

Ms. ___ was informed of alternative treatments, the consequences 
of no treatment, and the expected duration of treatment. She 
appeared to appreciate the information conveyed in the consent 
process by asking appropriate questions, which were answered by 
the treatment team, and expressing understanding of the 
potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  Ms. ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at an 
increased risk of harm to herself.  Ms. ___ static risk 
factors noted at that time include history of suicide attempt, 
chronic mental illness, history of abuse/trauma, ?history of
substance abuse, ?history of self-injurious behavior, ?history 
of violence, ?family history of suicide/mental illness/substance 
use disorder, Caucasian ethnicity, single relationship status, 
limited social supports, unemployment, homelessness, financial 
hardship.  The modifiable risk factors identified were as such: 
suicidal ideation with intent/plan, psychosis, disorganized and 
unpredictable behavior,
?command AH, aggression/agitation, ?active substance use 
disorder, ?acute intoxication, impulsivity, medication 
noncompliance, poorly controlled mental illness, no established 
outpatient providers, poor reality testing, decreased executive 
functioning, limited coping skills. These modifiable risk 
factors were addressed with acute stabilization in a safe 
environment on a locked inpatient unit, psychopharmacologic 
adjustments, psychotherapeutic interventions (OT groups, SW 
groups, individual therapy meetings with psychiatrists), and 
presence on a social milieu environment.  Ms. ___ is being 
discharged with many protective factors, including female 
gender, future oriented viewpoint, lack of suicidal ideation, no 
access to lethal weapons.  Overall, based on the totality of our 
assessment at this time, Ms. ___ is not at an acutely elevated 
risk of harm to self nor danger to others. 

Our prognosis of this patient is fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OLANZapine 5 mg PO DAILY 

 
Discharge Medications:
1.  Nicotine Patch 14 mg TD DAILY:PRN nicotine craving 
RX *nicotine 14 ___ one patch on skin once a day 
Disp #*7 Patch Refills:*0 
2.  OLANZapine 5 mg PO QAM 
RX *olanzapine 5 mg 1 tablet(s) by mouth Every Morning Disp #*10 
Tablet Refills:*0 
3.  OLANZapine 10 mg PO QHS 
RX *olanzapine 10 mg 1 tablet(s) by mouth at bedtime Disp #*10 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Paranoid schizophrenia
Anxiety nos 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health ___ providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___